data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(C(C1=CC=CC=C1)O)C(=O)[O:21][OH:20].[O-][S:10](=O)[O-].[Na+]>>CC(C(C1=CC=CC=C1)O)C(=O)[O-:21].[OH:20][S+:10](=O)([O-])[O-].[Na+] 10=20;20,21=21
[H:20][O:21]C(=O)C.CN1CCC(CC1)(N2CCN(CC2)C3=CC=C(C=C3)C4=CC5=C(C=C4)N(C6=C5C(=CC=N6)Cl)S(=O)(=O)C7=CC=CC=C7)[OH:10]>>[H:20][OH+:10]C1(CCN(CC1)C)N2CCN(CC2)C3=CC=C(C=C3)C4=CC5=C(C=C4)N(C6=C5C(=CC=N6)Cl)S(=O)(=O)C7=CC=CC=C7.CC(=O)[O-:21] 10=20;20,21=21
C[Si](C)(C)C[CH2:10][O:11]S(=O)(=O)C>>C[Si](C)(C)C[CH2+:10].CS(=O)(=O)[O-:11] 10,11=11
CCC(CC1CCCCC1)C(CC(=O)OC(C)(C)C)[O+:21]([Si](C)(C)C)[Ti-:20](Cl)(Cl)(Cl)Cl>>CCC(CC1CCCCC1)C(CC(=O)OC(C)(C)C)[O:21][Si](C)(C)C.Cl[Ti:20](Cl)(Cl)Cl 20,21=21
C[CH:10]=[O+:11][Cu]>>C[CH+:10][O:11][Cu] 10,11=11
[H:20][O+:21](C(C)C)C(C)(C)OC(C)C.OS(=O)(=O)[O-:10]>>CC(C)OC(C)(C)[O:21]C(C)C.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C=CC(=[O:10])O>>[H:20][O+:10]=C(C=C)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
CCOC(=O)[N+:21]1=[CH:20]C=CCC1.C[Si](C)(C)C[CH:11]=[CH2:10].O[Sn-](Cl)(Cl)(Cl)Cl>>CCOC(=O)[N:21]1CCC=C[CH:20]1[CH2:10][CH+:11]C[Si](C)(C)C.O[Sn-](Cl)(Cl)(Cl)Cl 10,11=10,20;20,21=21
[H:20][O:21]C(C)C(=C)C(=O)OC.C1CC(=O)[N-:10]C1=O.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][N:10]1C(=O)CCC1=O.CC(C(=C)C(=O)OC)[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
[Li:10][O+:11](C)C(CC)[O-]>>[Li+:10].CCC([O-])[O:11]C 10,11=11
[Li:20]CCCC.CC[O:10]C(C)N1C=CN=C1>>[Li-:20](CCCC)[O+:10](CC)C(C)N1C=CN=C1 10=20,
[H:20][O:21]S(=O)(=O)O.[CH2:10]=[CH:11]CBr>>[H:20][CH2:10][CH+:11]CBr.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
CC1=CC[C:20]([N:10]1CC2=CC=CO2)(C)[OH:21].C1=COC(=C1)CN.O>>C[C:20]1=[N+:10](C(=CC1)C)CC2=CC=CO2.[OH-:21].C1=COC(=C1)CN.O 10=20;20,21=21
[H:10][Al-:11](CC(C)C)(CC(C)C)[O+:21]=[C:20](CCC)CCC>>[H:10][C:20](CCC)(CCC)[O:21][Al:11](CC(C)C)CC(C)C 10,11=10,20;20,21=21
C1C[CH:10]=[C:11](C1)[O-:12].C1=CC=C(C=C1)[CH:20]=[O:21]>>C1C[CH:10]([C:11](=[O:12])C1)[CH:20](C2=CC=CC=C2)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][N:21]1C(=O)C2=C(C1=O)C=CC=C2.[OH-:10]>>[H:20][OH:10].C1=CC2=C(C=C1)C(=O)[N-:21]C2=O 10=20;20,21=21
CCOC(=O)C(C)C(=O)[O:21][CH2:20]C.[C-:10]#N.[Na+]>>C[CH2:20][C:10]#N.CCOC(=O)C(C)C(=O)[O-:21].[Na+] 10=20;20,21=21
CC#C[C:20](C)([O-:10])[O:21]C(=O)C>>CC#C[C:20](=[O:10])C.CC(=O)[O-:21] 10=20;20,21=21
[H:20][OH+:21]CC=C=N.[OH2:10]>>[H:20][OH2+:10].C(C=C=N)[OH:21] 10=20;20,21=21
C[C+:20]=O.CC1=C[CH:11]=[CH:10]O1>>CC1=C[CH+:11][CH:10](O1)[C:20](=O)C 10,11=10,20
[H:20][OH2+:21].CC(O)(O)[OH:10]>>[H:20][OH+:10]C(C)(O)O.[OH2:21] 10=20;20,21=21
CC(C)[OH:10].CC(C)(C)[Si:20](C)(C)[O+]=CN(C)C.C1=CN=CN1.[Cl-]>>CC(C)[OH+:10][Si-:20](C)(C)(C(C)(C)C)[O+]=CN(C)C.C1=CN=CN1.[Cl-] 10=20,
[H:20][CH:21]1CC(CC(=O)[C:23](=[CH:22]1)[C:24](=[O:25])OC)C2=CC=CC=C2.C[O-:10].[HH].CC(=O)C=C.[Na+]>>[H:20][O:10]C.CO[C:24](=[C:23]1[CH:22]=[CH:21]CC(CC1=O)C2=CC=CC=C2)[O-:25].[HH].CC(=O)C=C.[Na+] 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][NH2+:21]CC.CCNC(C)(C)[OH:10]>>[H:20][OH+:10]C(C)(C)NCC.CC[NH2:21] 10=20;20,21=21
C1CCC(C(C1)CCCN)[O-:10].[AlH3:20]>>C1CCC(C(C1)CCCN)[O:10][AlH3-:20] 10=20,
COC1=CC=C(C=C1)[CH2:20][Cl:21].C1=CC=C(C=C1)C[NH2:10]>>COC1=CC=C(C=C1)[CH2:20][NH2+:10]CC2=CC=CC=C2.[Cl-:21] 10=20;20,21=21
CCN[C:20](C=C)([OH:10])[O:21]C(=O)C>>CCN[C:20](=[OH+:10])C=C.CC(=O)[O-:21] 10=20;20,21=21
[H:20][N:21](CC)C(=O)C.[C-:10]#N>>[H:20][C:10]#N.CC[N-:21]C(=O)C 10=20;20,21=21
[H:20][OH2+:21].CC[O:10]C(CCC#N)(O)O>>[H:20][O+:10](CC)C(CCC#N)(O)O.[OH2:21] 10=20;20,21=21
C[CH:20]=[O+:21]CC[OH:10]>>C[CH:20]1[OH+:10]CC[O:21]1 10=20;20,21=21
[H:20][C:21]1(C(=CC(=C[C:22]1=[OH+:23])CCCCC)O)CC=C(C)C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CCCCCC1=C[C:22](=[C:21](C(=C1)O)CC=C(C)C)[OH:23].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[OH:10].C[Si:20](C)(C)Cl>>CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[OH+:10][Si-:20](C)(C)(C)Cl 10=20,
[H:20][C:21](C1=CC(=C(C(=C1)OC)OC)OC)([C:22]2=[N+:23](C(=C(S2)CCO)C)CC)O.CC[N:10](CC)CC.CCO.CC(=O)C=C.[Br-]>>[H:20][N+:10](CC)(CC)CC.CC[N:23]1C(=C(S[C:22]1=[C:21](C2=CC(=C(C(=C2)OC)OC)OC)O)CCO)C.CCO.CC(=O)C=C.[Br-] 10=20;22,23=23;20,21=21,22
C[C:20]([OH2+:21])([OH:10])SC>>C[C:20](=[OH+:10])SC.[OH2:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC(=C(C=C1)O)C(=O)O.COC1=C2C3=C(CC4C5C3(CC[NH+]4CC6CCC6)C(O2)C(=[O:10])CC5)C=C1.CO.COC=[O+]C>>[H:20][O+:10]=C1CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CC[NH+]3CC6CCC6.C1=CC(=C(C=C1S(=O)(=O)[O-:21])C(=O)O)O.CO.COC=[O+]C 10=20;20,21=21
CCC1CC[C:20]2(C1[Br+:21]2)C.[OH2:10]>>CCC1CC[C:20](C1[Br:21])(C)[OH2+:10] 10=20;20,21=21
CC[CH2:20][O:21]S(=O)Cl.[Cl-:10]>>CC[CH2:20][Cl:10].[O-:21]S(=O)Cl 10=20;20,21=21
[H:20][OH2+:21].CC(=O)CC[CH:10]=[CH:11][O-:12]>>[H:20][CH:10](CCC(=O)C)[CH:11]=[O:12].[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][N+:21]1=CC=CC=C1.CC(C=O)C(CCC(=O)OC)C(C)(O)[O:10]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C>>[H:20][O+:10](CCO)C(C)(C(CCC(=O)OC)C(C)C=O)O.C1=CC=[N:21]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C 10=20;20,21=21
